US06429212B1
Synthesis of N-(2.6-diisopropylphenyl)-homophthalimide (Compound No.A-3)
0.512 g (3.16 mmol) of homophthalic anhydride and 0.42 g (2.37 mmol) of 2,6-diisopropylaniline were mixed, and melted at a temperature of 200° C. for 1 hour. The reactant was dissolved in ethyl acetate, washed with aqueous NaHCO3 solution, with water and then with saturated aqueous sodium chloride, dried over anhydrous MgSO4, and subjected to filtration with a folded filter paper. The filtrate was concentrated and evaporated to dryness. The residue was recrystallized by using a mixture of CH2Cl2 and hexane, to obtain 0.351 g (yield 36%) of the specified substance as light purple leaflets. It showed the following physical properties and analyzed values.

reactant | homophthalic anhydride | 3.16 mmol, 0.512 g | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
reactant | 2,6-diisopropylaniline | 2.37 mmol, 0.42 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2.6-diisopropylphenyl)-homophthalimide | yield 36% | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(CC=2C(C1=O)=CC=CC2)=O | C21H23NO2
